US05025031
2-(2-methoxyphenoxy)ethanol
A solution of 43.2 g (0.35 mole) of 2-methoxyphenol (guaiacol, Aldrich) in 200 ml of ethanol was stirred and treated with 29 ml (0.36 mole) of 50% sodium hydroxide solution. To this solution was added a solution of 28.2 g (0.35 mole) of 2-chloroethanol (Aldrich) in 50 ml of ethanol and the reaction mixture was heated at reflux for 2 hr. The solids were removed by filtration. The filtrate was evaporeated under reduced pressure and the viscous residue was partitioned between 300 ml of 15% sodium hydroxide solution and 500 ml of ethyl ether. The organic layer was washed with 200 ml of 15% sodium hydroxide solution, 300 ml of water, dried (magnesium sulfate) and the solvent evaporated under reduced pressure to give 24.5 g (42%) of the title compound as a lightly colored, viscous oil.

reactant | 2-methoxyphenol | 0.35 mole, 43.2 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | sodium hydroxide | 0.36 mole, 29 ml | [OH-].[Na+]
reactant | 2-chloroethanol | 0.35 mole, 28.2 g | ClCCO | C2H5ClO
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-methoxyphenoxy)ethanol | 24.5 g, 42% | COC1=C(OCCO)C=CC=C1 | C9H12O3
